US05786379
(a) Preparation of methyl 4-[3-(1-adamantyl)-4-methoxyphenylthiomethyl]benzoate
5 g (12.3 mmol) of 4-[3-(1-adamantyl)-4-methoxyphenylthiomethyl]benzoic acid and 50 ml of methanol were introduced into a round-bottomed flask and 330 μl of concentrated sulfuric acid were added. The mixture was heated at reflux for eight hours and the reaction medium was then evaporated to dryness. The residue was taken up in water, neutralized with sodium bicarbonate and extracted with ethyl ether. The organic phase was separated out after settling had taken place, dried over magnesium sulfate and evaporated. The residue obtained was purified by chromatography on a column of silica, eluted with a mixture of dichloromethane and hexane (40/60). After evaporation of the solvents, 4.1 g (79%) of methyl 4-[3-(1-adamantyl)-4-methoxyphenylthiomethyl]benzoate were recovered.

reactant | 4-[3-(1-adamantyl)-4-methoxyphenylthiomethyl]benzoic acid | 12.3 mmol, 5 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)SCC2=CC=C(C(=O)O)C=C2 | C25H28O3S
reactant | sulfuric acid | 330 μl | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 50 ml | CO | CH4O
product | methyl 4-[3-(1-adamantyl)-4-methoxyphenylthiomethyl]benzoate | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)SCC2=CC=C(C(=O)OC)C=C2 | C26H30O3S
